US04122179
Vincamine furoate (furan-2-carboxylate)
The reaction mixture is then concentrated to a dry residue, and the product is ground and dried in an aerated furnace. There are obtained 9.3 g of a substance, insoluble in water and alcohol, having a vincamine content of 74%.

reactant | vincamine | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3 | C21H26N2O3
solvent | water | O | H2O
product | Vincamine furoate | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3.O1C(=CC=C1)C(=O)[O-] | InChI=1S/C21H26N2O3.C5H4O3/c1-3-20-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(17(15)18(20)22)21(25,13-20)19(24)26-2;6-5(7)4-2-1-3-8-4/h4-5,7-8,18,25H,3,6,9-13H2,1-2H3;1-3H,(H,6,7)/p-1/t18-,20+,21+;/m1./s1
